2157-08-16 07:10:00 Physician Resident Progress Note
Chief Complaint: Hypotension, fevers
   24 Hour Events:
   Pt continued to complain of back pain overnight. On Lidocaine patch,
   PRN Morphine.
   PICC line to be placed today due to poor peripheral access (no a.m.
   labs drawn.)
   Leaking continues around suprapubic catheter site. No tenderness to
   palpation.
   Pt snores loudly, with periods of apnea and decreased RR~8 [**Name8 (MD) **] RN.
   Possible candidate for OSA eval.
   Allergies:
   Penicillins
   Unknown;
   Ventolin Hfa (Inhalation) (Albuterol Sulfate)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2157-8-15**] 10:08 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2157-8-15**] 03:59 PM
   Heparin Sodium (Prophylaxis) - [**2157-8-16**] 12:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-8-16**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.7
C (98.1
   HR: 100 (100 - 115) bpm
   BP: 105/67(76) {105/67(76) - 132/112(115)} mmHg
   RR: 8 (0 - 31) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 59 Inch
                  Total In:
                                                                  4,200 mL
                                                                    240 mL
   PO:
                  240 mL
   TF:
   IVF:
                                                                  2,200 mL
   Blood products:
   Total out:
                                                                  1,375 mL
                                                                  1,100 mL
   Urine:
                                                                    350 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,825 mL
                                                                   -860 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   Physical Examination
   Gen: alert, awake, NAD, laying in bed
   HEENT: mmm, oropharynx clear, no LAD, neck supple, PERRL
   CV: RRR, no m/r/g
   LUNGS: CTAB, no w/r/r
   ABD: soft, NTND, bs+, suprapubic catheter in place with visible leakage
   around insertion site, no TTP, no surrounding erythema
   EXT: 1+pitting edema to mid-lwr leg bilaterally, no c/c
   Labs / Radiology
        [image002.jpg]
   No new labs drawn (poor PIV access, pending PICC placement today)
   Assessment and Plan
   Assesment: This is a 30 year-old female with a history of spina bifida,
   recurrent UTIs, suprapubic catheter who presents with fevers,
   tachycardia.
   .
   Plan:
   # Pyelonephritis - Patient meets SIRS criteria with temperature of 102
   and HR > 90, although no leukocytosis/leukopenia.  Likely source is
   urinary given U/A.  Other possibility includes VP shunt.  Chest x-ray
   negative. History of MRSA and Vanc sensitive enterococcus in prior
   urine cultures.
   - IV fluid boluses to maintain MAP > 65, urine output > 30cc/hr
   - Blood cx pending
   - Urine cx positive for mixed flora, likely fecal contaminant. Will
   re-check another urine cx.
   - Will continue patient on Vancomycin (Day#2) and Bactrim (Day#2) (past
   culture showed bactrim-sensitive, pt had allergy to PCN).
   - Trend WBC count fever curve.
   - Will change suprapubic catheter
   .
   # Tachycardia - Sepsis most likely etiology.  Improved today with HR in
   upper 90s.
   .
   # Mental status changes
 resolved. Pt appears to be back to baseline.
   .
   #.  Pain control - Continue lidocaine patch, gabapentin, and morphine
   15mg PRN.  Acetaminophen PRN. Will try adding Fentanyl patch for
   additional relief.
   .
   #?[**Name (NI) 1042**] pt with decreased sats to 80s and periods of apnea while
   sleeping. Will continue O2 sat monitoring, try CPAP tonight if still in
   unit.
   - Outpatient sleep study.
   .
   # GERD - Continue omeprazole 20mg [**Hospital1 7**]
   .
   # Tobacco use - Continue nicotine patch
   .
   # FEN:  Regular diet
   .
   # Access: PICC later today.
   .
   # PPx:  Heparin SC, omeprazole, bowel regimen.
   .
   # Code:  Full code
   .
   # Dispo:  As pt improved significantly in mental status and hemodynamic
   status, will likely call out to floor today.
   .
   # Comm:  With patient
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2157-8-15**] 02:44 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2157-08-16 12:50:00 Physician Attending Progress Note
Chief Complaint: Hypotension, fever, altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Afebrile through the night. Hemodynamics stable. No evidence of EtOH
   withdrawal.
   Blood sample could not be obtained for laboratory studies today.
   Antibiotics switched to Bactrim and vanco because of med allergies.
   24 Hour Events:
   History obtained from Patient
   Allergies:
   Penicillins
   Unknown;
   Ventolin Hfa (Inhalation) (Albuterol Sulfate)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2157-8-16**] 08:20 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2157-8-15**] 03:59 PM
   Heparin Sodium (Prophylaxis) - [**2157-8-16**] 12:21 AM
   Other medications:
   Nicotine patch, iron, neurontin, lidocaine patch, Bactrim, omeprazole,
   morphine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-8-16**] 12:49 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.8
C (98.2
   HR: 102 (100 - 115) bpm
   BP: 103/79(73) {99/63(73) - 132/112(115)} mmHg
   RR: 22 (0 - 31) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 59 Inch
             Total In:
                                                                  4,200 mL
                                                                    640 mL
   PO:
             440 mL
   TF:
   IVF:
                                                                  2,200 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  1,375 mL
                                                                  2,275 mL
   Urine:
                                                                    350 mL
                                                                  2,275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,825 mL
                                                                 -1,635 mL
   Respiratory support
   O2 Delivery Device: None, Nasal cannula
   SpO2: 98%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral chest, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, Leaking around suprapubic catheter
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
        [image002.jpg]
   Microbiology: Urine: mixed flora.
   Assessment and Plan
   1) Fever
   2) Hypotension
   3) Altered mental status
   No afebrile with treatment for presumed urinary tract infection.
   Consult urology re: replacement of suprapubic catheter given leaking.
   Hemodynamically stable. No futher episodes of hypotension.
   Mental status appears to be at baseline. Continues to complain of
   diffuse pain. Oxygenation excellent off supplemental O2.
   Patient complains that the lidocaine patch is not dealing with her back
   pain. Try to contact PCP [**Last Name (NamePattern4) **]: possible drug seeking behavior; she is
   asking for morphine. Consider fentanyl patch.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2157-8-15**] 02:44 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 25 minutes

2157-08-17 06:55:00 Physician Resident Progress Note
Chief Complaint: Fever, hypotension
   24 Hour Events:
   PICC team unable to place line yesterday due to difficult access. Pt
   had unsuccessful attempt at  U/S guided placement of PICC this a.m.
   Went to IR for PICC placement.
   Urology switched out suprapubic catheter.  No leaking from site.
   Required Ativan 0.75mg IV total overnight for sleep. Pt very anxious,
   requiring a lot of nursing attention.
   BIPAP with nasal mask trialed overnight with episodes of desats to 80s.
   Improved with sats in 90s after with 2L NC.
   Pain control improved on current regimen.
   Allergies:
   Penicillins
   Unknown;
   Ventolin Hfa (Inhalation) (Albuterol Sulfate)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2157-8-16**] 08:34 PM
   Bactrim (SMX/TMP) - [**2157-8-16**] 08:34 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2157-8-17**] 12:33 AM
   Lorazepam (Ativan) - [**2157-8-17**] 12:33 AM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: None
   Flowsheet Data as of  [**2157-8-17**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.2
   HR: 86 (86 - 112) bpm
   BP: 104/68(73) {99/42(55) - 134/79(92)} mmHg
   RR: 6 (0 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
                  Total In:
                                                                    915 mL
                                                                    500 mL
   PO:
                                                                    515 mL
                                                                    500 mL
   TF:
   IVF:
                                                                    400 mL
   Blood products:
   Total out:
                                                                  4,825 mL
                                                                  1,000 mL
   Urine:
                                                                  4,825 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,910 mL
                                                                   -500 mL
   Respiratory support
   O2 Delivery Device: NC 2L
   SpO2: 98%
   ABG: ////
   Physical Examination
   Gen: alert, awake, NAD, laying in bed
   HEENT: mmm, NCAT, PERRL, EOMI grossly
   CV: RRR, no m/r/g, S1 S2 present
   LUNGS: CTAB, no w/r/r
   ABD: soft, NTND, bs+
   EXT: 1+pitting edema in LE bilaterally, no c/c
   Labs / Radiology
        [image002.jpg]
   None available, pending IV access later today (PICC placement)
   Assessment and Plan
   Assesment: This is a 30 year-old female with a history of spina bifida,
   recurrent UTIs, suprapubic catheter who presents with fevers,
   tachycardia.
   .
   Plan:
   # Pyelonephritis - Patient meets SIRS criteria with temperature of 102
   and HR > 90, although no leukocytosis/leukopenia.  Likely source is
   urinary given U/A.  Other possibility includes VP shunt.  Chest x-ray
   negative. History of MRSA and Vanc sensitive enterococcus in prior
   urine cultures.
   - Blood cx pending
   - Urine cx positive for mixed flora, likely fecal contaminant. Repeat
   urine cx positive for yeast.
   - Will continue patient on Vancomycin (Day#3) and Bactrim (Day#3) (past
   culture showed bactrim-sensitive, pt had allergy to PCN so did not
   continue Ceftriaxone/ Zosyn.).
   - Trend WBC count fever curve.
   - Suprapubic catheter changed yesterday by Urology.
   .
   # Tachycardia - Sepsis most likely etiology.  HR stable in 90s.
   .
   # Mental status changes
 resolved. Pt appears to be back to baseline.
   .
   #.  Pain control - Continue lidocaine patch, gabapentin, and morphine
   15mg PRN.  Acetaminophen PRN. Fentanyl patch added for additional
   relief yesterday. Pain controlled today. Conversation with outpatient
   PCP recommended Tylenol 3 only for pain. Will continue current regimen
   as pt stable, and will modify as necessary.
   .
   #?[**Name (NI) 1042**] pt with decreased sats to 80s and periods of apnea while
   sleeping. CPAP trial last night improved pt
s apnea and O2 sat when
   2LNC added.
   - Will continue CPAP while in unit.
   - Outpatient sleep study recommended.
   .
   # GERD - Continue omeprazole 20mg [**Hospital1 7**]
   .
   # Tobacco use - Continue nicotine patch
   .
   # FEN:  Regular diet
   .
   # Access: PICC to be placed by IR today.
   .
   # PPx:  Heparin SC, omeprazole, bowel regimen.
   .
   # Code:  Full code
   .
   # Dispo:  As pt improved significantly in mental status and hemodynamic
   status, pt awaiting call out to floor.
   .
   # Comm:  With patient
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2157-8-15**] 02:44 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2157-08-17 11:55:00 Physician Attending Progress Note
Chief Complaint: Fever, hypotension, UTI
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Suprapubic catheter changed yesterday; leakage is improved.
   Fentanyl patch started. Pain somewhat improved.
   Unable to get bedside PICC.
   Required ativan last night for "restlessness."
   24 Hour Events:
                                           History obtained from Patient
   Allergies:
   Penicillins
   Unknown;
   Ventolin Hfa (Inhalation) (Albuterol Sulfate)
   Unknown;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2157-8-16**] 08:34 PM
   Vancomycin - [**2157-8-17**] 08:43 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2157-8-17**] 12:33 AM
   Lorazepam (Ativan) - [**2157-8-17**] 12:33 AM
   Other medications:
   Nicotine patch, ferrous sulfate, Omeprazole, fentanyl patch, ativan,
   tylenol, ibuprofen, morphine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-8-17**] 11:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36
C (96.8
   HR: 88 (86 - 112) bpm
   BP: 104/68(73) {99/42(55) - 134/76(92)} mmHg
   RR: 5 (0 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
             Total In:
                                                                    915 mL
                                                                    850 mL
   PO:
                                                                    515 mL
                                                                    650 mL
   TF:
   IVF:
                                                                    400 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  4,825 mL
                                                                  1,350 mL
   Urine:
                                                                  4,825 mL
                                                                  1,350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,910 mL
                                                                   -500 mL
   Respiratory support
   O2 Delivery Device: None, Nasal cannula
   SpO2: 97%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic), Very soft S4
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   Anterior and lateral chest, No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
        [image002.jpg]
   Assessment and Plan
   1) Fever
   2) Hypotension
   3) UTI
   Patient afebrile on antibiotics. Suprapubic bladder catheter changed.
   BP has been stable even with negative fluid balance.
   No labs obtained; unable to draw blood. PICC to be placed.
   Attempting nasal CPAP for possible OSA.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2157-8-15**] 02:44 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 25 minutes